US06841079B2
A 250 mL three-neck round-bottom flask equipped with thermometer, magnetic stirring, and addition funnel was charged with a solution of 75 g of C4F9SO2NHCH3 in 80 g of dimethyl sulfoxide. The solution was stirred while a solution of 17.1 g potassium hydroxide in 20 g of water was added in 2 mL aliquots via pipette. The solution turned cloudy during the addition, then cleared with additional stirring. Allyl bromide (31.9 g) was charged to the addition funnel, and added dropwise to the reaction mixture. A rise in temperature of the reaction mixture to 75° C. was noted during the addition. The reaction mixture turned cloudy shortly after the addition was begun, and stirring was continued overnight at room temperature. The reaction mixture was poured into a separatory funnel and allowed to stand until the liquid layers had separated. A few mL water were added to the mixture to facilitate phase separation. The lower layer was drawn off, washed with water and brine, and dried over anhydrous magnesium sulfate, leaving 76.0 g of a clear, colorless crude liquid product which was vacuum distilled to yield 68.7 g C4F9SO2N(CH3)CH2CH═CH2, b.p. 97-101° C. at 19 torr (2.5 kPa).

reactant | C4F9SO2NHCH3 | 75 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)NC | C5H4F9NO2S
reactant | potassium hydroxide | 17.1 g | [OH-].[K+]
reactant | Allyl bromide | 31.9 g | C(C=C)Br | C3H5Br
solvent | dimethyl sulfoxide | 80 g | CS(=O)C | C2H6OS
solvent | water | 20 g | O | H2O
product | C4F9SO2N(CH3)CH2CH═CH2 | 68.7 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)N(C)CC=C | C8H8F9NO2S
